US07534788B2
Step 2: (4-Fluoro-phenyl)-(2-hydroxy-4-methoxy-phenyl)-methanone
The above prepared (2,4-Dimethoxy-phenyl)-(4-fluoro-phenyl)-methanone (7.75 g, 29.8 mmol) was dissolved in 150 mL of acetonitrile and treated successively with sodium iodide (6.70 g, 1.5 eq.) and AlCl3 (3.97 g, 1.0 eq.), and the mixture kept at 80° C. for 1.5 h. Cooling, pouring onto crashed ice, twofold extraction with AcOEt, washing with water and brine, drying over sodium sulfate, and evaporation of the solvents, followed by a short flash chromatography (SiO2, hexane/AcOEt=9/1), gave 6.49 g of the title compound as yellow solid.

reactant | (2,4-Dimethoxy-phenyl)-(4-fluoro-phenyl)-methanone | 29.8 mmol, 7.75 g | COC1=C(C=CC(=C1)OC)C(=O)C1=CC=C(C=C1)F | C15H13FO3
reactant | sodium iodide | 6.70 g, 1.5 eq. | [I-].[Na+]
reactant | AlCl3 | 3.97 g, 1.0 eq. | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | (4-Fluoro-phenyl)-(2-hydroxy-4-methoxy-phenyl)-methanone | 6.49 g | FC1=CC=C(C=C1)C(=O)C1=C(C=C(C=C1)OC)O | C14H11FO3
